US08022062B2
7-Chloro-6-(3-dimethylcarbamoylpropylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine Hydrochloride
Dissolve 3-tert-butoxycarbonyl-7-chloro-6-(3-dimethylcarbamoyl-propylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine in DCM (1 mL) at ambient temperature and add 4M hydrogen chloride in dioxane (200 μL, 0.8 mmol). Continue stirring until TLC shows consumption of starting material. Concentrate in vacuo, triturate the obtained solid with dry diethyl ether and dry at 50° C. under high vacuum overnight to give the title compound as a hygroscopic white solid (45.0 mg, 57%). MS (ES+) m/z: 327 (M+H)+.

reactant | 3-tert-butoxycarbonyl-7-chloro-6-(3-dimethylcarbamoyl-propylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)SCCCC(N(C)C)=O | C21H31ClN2O3S
reactant | hydrogen chloride | 4M | Cl | ClH
reactant | dioxane | 0.8 mmol, 200 μL | O1CCOCC1 | C4H8O2
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | 7-Chloro-6-(3-dimethylcarbamoylpropylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine Hydrochloride | 45.0 mg, 57% | Cl.ClC1=C(C2=C(CCNCC2)C=C1)SCCCC(N(C)C)=O | InChI=1S/C16H23ClN2OS.ClH/c1-19(2)15(20)4-3-11-21-16-13-8-10-18-9-7-12(13)5-6-14(16)17;/h5-6,18H,3-4,7-11H2,1-2H3;1H
